US06048868
1-Methylene-2-trifluoroacetyl-6-methoxy-1,2,3,4-tetra-hydro-β-carbolin
To a solution of 10-methoxyharmalan (40 mg) in triethylamine (1 ml) is added TFA (2.2 eq). After reaction for 15 min. at 0° C., the mixture is hydrolysed and extracted with CH2Cl2. The crude product is then chromatographed on a preparative plate (eluent: CH2Cl2). 1-Methylene-2-trifluoroacetyl-6-methoxy-1,2,3,4-tetra-hydro-β-carboline is recovered (yield: 20%).

reactant | 10-methoxyharmalan | 40 mg | CC1=C2C(=C3C=C(C=CC3=N2)OC)CCN1 | C13H14N2O
reactant | TFA | 2.2 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 1-Methylene-2-trifluoroacetyl-6-methoxy-1,2,3,4-tetra-hydro-β-carbolin | yield: 20% | C=C1N(CCC=2C3=CC(=CC=C3NC12)OC)C(C(F)(F)F)=O | C15H13F3N2O2
